US05556977
Ethyl 6-[4-(4-pyridylamino)phenoxy]hexanoate
Trifluoroacetic acid (3 ml) was added to a stirred solution of ethyl 6-[4-[N-(4-pyridyl)-N-tertiary-butyloxycarbonylamino]phenoxy]hexanoate (260 mg) dissolved in dichloromethane (3 ml). After 18 hours the solvents were removed in vacuo and the residual gum dissolved in dichloromethane. This solution was treated with a saturated solution of sodium hydrogen carbonate. The organic phase was washed with water, dried and evaporated. Trituration of the residue with hexane gave the title compound, 120 mg, as a white solid: m.p. 104°-106° C.; NMR (CDCl3) δ8.22 (2H, d), 7.12 (2H, d), 6.90 (2H, d), 6.64 (2H, dd), 5.82 (1H, s), 4.13 (2H, q), 3.97 (2H, t), 2.34 (2H, t), 1.80 (2H, m), 1.70 (2H, m), 1.53 (2H, m), 1.27 (3H, t); m/e 329 (M+H)+ ; calculated for C19H24N2O3.0.25H2O:C, 68.6; H, 7.4; N, 8.4. found: C, 68.8; H, 7.3; N, 8.2%.

reactant | Trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl 6-[4-[N-(4-pyridyl)-N-tertiary-butyloxycarbonylamino]phenoxy]hexanoate | 260 mg | N1=CC=C(C=C1)N(C(=O)OC(C)(C)C)C1=CC=C(OCCCCCC(=O)OCC)C=C1 | C24H32N2O5
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | Ethyl 6-[4-(4-pyridylamino)phenoxy]hexanoate | N1=CC=C(C=C1)NC1=CC=C(OCCCCCC(=O)OCC)C=C1 | C19H24N2O3
